US07358370B2
5,5-dimethyl-2-(2-oxopropyl)cyclohexane-1,3-dione (Compound 56)
An oven dried flask was charged with sodium hydride (3.61 g, 142.7 mmol) to which 200 mL of anhydrous DMF was added. The flask was cooled in an ice bath before adding 5,5-dimethyl-1,3-cyclohexanedione (20.0 g, 142.7 mmol) and chloroacetone (11.36 mL, 142.7 mmol) in 100 mL DMF in a controlled manner. The reaction was allowed to warm to RT and stirred for 3 h. Saturated NH4Cl was added and the mixture was washed several times with EtOAc. The combined organic layer was dried over MgSO4, filtered, the solvent removed in vacuo (below 40° C.). LCMS m/z M+H=197.1.

reactant | sodium hydride | 142.7 mmol, 3.61 g | [H-].[Na+]
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 142.7 mmol, 20.0 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | chloroacetone | 142.7 mmol, 11.36 mL | ClCC(C)=O | C3H5ClO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5,5-dimethyl-2-(2-oxopropyl)cyclohexane-1,3-dione | CC1(CC(C(C(C1)=O)CC(C)=O)=O)C | C11H16O3
